US05552397
a) N-[(1,1-Dimethylethoxy)carbonyl]-O-(2-nitrophenyl)-L-threonine
A solution of N-[(1,1-dimethylethoxy)carbonyl]-L-threonine (5.02 g., 22.9 mmol.) in dry dimethylformamide (10 ml.) was added dropwise over a period of 30 minutes to a cooled (0° C.) suspension of 60% sodium hydride (1.93 g., 48.25 mmol., 2.11 eq.) in dry dimethylformamide (40 ml.). The reaction was stirred at 0° C. until the frothing subsided (about 3.5 hours). The reaction mixture was treated dropwise with 1-fluoro-2-nitrobenzene (2.67 ml., 25.2 mmol., 1.1 eq.) over a period of 20 minutes and stirred at 0° C. under argon for 2 hours. The reaction mixture was then placed in the cold room (5° C.) and stirred overnight. The reaction mixture was poured into ice-water (500 ml.) and extracted with ethyl ether (2×200 ml.). The aqueous phase was brought to pH 1.0 with 6N hydrochloric acid (200 ml.) and extracted with ethyl acetate (3×300 ml.). The combined ethyl acetate extracts were washed with water (2×300 ml.), and brine (300 ml.), dried (anhydrous sodium sulfate), filtered, evaporated to dryness and dried in vacuo. The crude residue was loaded onto celite and purified by chromatography on a 10×20 cm. silica gel column. Elution with methylene chloride (3 l.), 99:1 methylene chloride:methanol (2 l.), 95:5 methylene chloride:methanol, and 100:5:0.5 methylene chloride:methanol:acetic acid (5 l.) gave 6.07 g. of title compound. TLC (methylene chloride:methanol:acetic acid, 100:5;0.5) Rf =0.16.

reactant | N-[(1,1-dimethylethoxy)carbonyl]-L-threonine | 22.9 mmol, 5.02 g | CC(C)(OC(=O)N[C@@H]([C@H](O)C)C(=O)O)C | C9H17NO5
reactant | sodium hydride | 48.25 mmol, 1.93 g, 2.11 eq. | [H-].[Na+]
reactant | 1-fluoro-2-nitrobenzene | 25.2 mmol, 2.67 ml, 1.1 eq. | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | N-[(1,1-Dimethylethoxy)carbonyl]-O-(2-nitrophenyl)-L-threonine | CC(C)(OC(=O)N[C@@H]([C@H](OC1=C(C=CC=C1)[N+](=O)[O-])C)C(=O)O)C | C15H20N2O7
